US08470820B2
Step 2: 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid methyl ester
A suspension of 3-amino-6-cyclopropylpyrazine-2-carboxylic acid methyl ester (2.17 g, 11.2 mmol), 5-bromopyrimidine (2.5 g, 15.7 mmol), water (425 μl, 23.6 mmol) and potassium carbonate (2.79 g, 20.2 mmol) in o-xylene (43.4 ml) was vented with argon and treated with ultrasound for 2 min. Palladium(II) acetate (101 mg, 0.45 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos; 325 mg, 0.56 μmol) were consecutively added under inert gas atmosphere and the reaction mixture was heated to 140° C. and stirred for 2 h. After cooling-down to ambient temperature, the reaction mixture was poured into water (100 ml) and extracted with ethyl acetate. The organic layers were dried and concentrated in vacuo. The product was obtained after silica gel chromatography using a heptane/ethyl acetate gradient as yellow solid (2.49 g, 81.7%).

reactant | 3-amino-6-cyclopropylpyrazine-2-carboxylic acid methyl ester | 11.2 mmol, 2.17 g | COC(=O)C1=NC(=CN=C1N)C1CC1 | C9H11N3O2
reactant | 5-bromopyrimidine | 15.7 mmol, 2.5 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | potassium carbonate | 20.2 mmol, 2.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.56 μmol, 325 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | o-xylene | 43.4 ml | CC=1C=CC=CC1C | C8H10
catalyst | Palladium(II) acetate | 0.45 mmol, 101 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | heptane ethyl acetate | 2.49 g | CCCCCCC.C(C)(=O)OCC
solvent | water | 100 ml | O | H2O
solvent | water | 23.6 mmol, 425 μl | O | H2O
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C1CC1 | C13H13N5O2
